US07067517B2
Methyl-phenyl-carbamic acid 4-morpholin-4-yl-phenyl ester
The title product was prepared from and 4-morpholin-4-yl-phenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was extracted with dichloromethane from citric acid (5%). The combined organic phases were evaporated and the product crystallized from ethanol (22%, crystals). HPLC-MS: m/z=313.2 (M+1); Rt: 3.75 min.

reactant | 4-morpholin-4-yl-phenol | N1(CCOCC1)C1=CC=C(C=C1)O | C10H13NO2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-morpholin-4-yl-phenyl ester | N1(CCOCC1)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C18H20N2O3
